US04228171
A mixture of chlorodiphenylacetyl chloride (20 g), 1-methyl-3-pyrrolidinol (7.6 g), and pyridine (35 g) is kept at room temperature for two hours. After adding 45 g of 2-benzyloxyethanol, the mixture is refluxed gently for 18 hours. Excess pyridine and benzyloxyethanol are distilled off under reduced pressure, the residue is dissolved in ether and washed twice with water. The organic phase is dried over magnesium sulfate (MgSO4), filtered and the filtrate evaporated to dryness. Chromatography of the residue on the silica gel with ethyl acetate-hexane-triethylamine (50:50:1) as eluent affords 18 g of 1-methyl-3-[2,2-diphenyl-2-(2-benzyloxyethoxy)acetoxy]pyrrolidine as an oil.

reactant | chlorodiphenylacetyl chloride | 20 g | ClC(C(=O)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C14H10Cl2O
reactant | 1-methyl-3-pyrrolidinol | 7.6 g | CN1CC(CC1)O | C5H11NO
reactant | 2-benzyloxyethanol | 45 g | C(C1=CC=CC=C1)OCCO | C9H12O2
solvent | pyridine | 35 g | N1=CC=CC=C1 | C5H5N
product | 1-methyl-3-[2,2-diphenyl-2-(2-benzyloxyethoxy)acetoxy]pyrrolidine | 18 g | CN1CC(CC1)OC(C(OCCOCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H31NO4
